US06825188B2
(c) (±)-2-Benzyl-3-oxo-8-[3-[N-(pyridin-2-yl)-N-(tert-butoxycarbonyl)amino)-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c), except substituting methyl (±)-2-benzyl-3-oxo-8-[3-[N-(pyridin-2-yl)-N-(tert-butoxycarbonyl)amino]-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound (0.044 g, quantitative) was prepared: MS (ES) m/e 560.3 (M+H)+.

reactant | methyl (±)-2-benzyl-3-oxo-8-[3-[N-(pyridin-2-yl)-N-(tert-butoxycarbonyl)amino]-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | C(C1=CC=CC=C1)N1CC2=C(CC(C1=O)CC(=O)OC)C=CC(=C2)OCCCN(C(=O)OC(C)(C)C)C2=NC=CC=C2 | C33H39N3O6
reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
product | (±)-2-Benzyl-3-oxo-8-[3-[N-(pyridin-2-yl)-N-(tert-butoxycarbonyl)amino)-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 0.044 g | C(C1=CC=CC=C1)N1CC2=C(CC(C1=O)CC(=O)O)C=CC(=C2)OCCCN(C(=O)OC(C)(C)C)C2=NC=CC=C2 | C32H37N3O6
